US09388176B2
4-(2-amino-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)-N-(m-tolyl)benzamide
A mixture of 4-(2-amino-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)benzoic acid (27 mg, 0.10 mmol), N,N-diisopropylethylamine (0.087 mL, 0.50 mmol), and HBTU (42 mg, 0.11 mmol) in 1.0 mL DMF was stirred at room temperature for 10 minutes. Then meta-toluidine (0.022 mL, 0.20 mmol) was added and the reaction heated at 55° C. for 18 hours. The reaction mixture was partitioned between EtOAc and aqueous Na2CO3 solution, the EtOAc layer washed with H2O, brine, dried with anhydrous Na2SO4 and rotary evaporated. The resulting solid was triturated with an EtOAc/hexane mixture to give the title compound as a light beige solid (18 mg, 51%). 1H NMR (DMSO-d6) δ: 9.84 (s, 1H), 8.12 (s, 1H), 7.85-7.92 (m, 2H), 7.60 (s, 1H), 7.55 (d, J=8.2 Hz, 1H), 7.19 (t, J=7.8 Hz, 1H), 7.03-7.09 (m, 2H), 6.88 (d, J=7.6 Hz, 1H), 6.42 (s, 2H), 4.36 (s, 2H), 3.71 (t, J=6.0 Hz, 2H), 2.75 (t, J=5.9 Hz, 2H), 2.30 (s, 3H)

reactant | 4-(2-amino-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)benzoic acid | 0.10 mmol, 27 mg | NC=1N=CC2=C(N1)CCN(C2)C2=CC=C(C(=O)O)C=C2 | C14H14N4O2
reactant | N,N-diisopropylethylamine | 0.50 mmol, 0.087 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | HBTU | 0.11 mmol, 42 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | meta-toluidine | 0.20 mmol, 0.022 mL | NC1=CC(=CC=C1)C | C7H9N
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
product | 4-(2-amino-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)-N-(m-tolyl)benzamide | 18 mg, 51% | NC=1N=CC2=C(N1)CCN(C2)C2=CC=C(C(=O)NC=1C=C(C=CC1)C)C=C2 | C21H21N5O
